### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/MongePoint) add theorems about orthocenter and circumcenter

### PR DESCRIPTION
**Pull request by zcyemi**
---

I added some theorems about the relationship between the orthocenter and the circumcenter of a triangle.
These results are used in the proofs of the Nine-Point Circle theorems.

- **Sylvester's theorem** `orthocenter_vsub_circumcenter_eq_sum_vsub` : The vector from the circumcenter to the orthocenter of a triangle is equal to the sum of the vectors from the circumcenter to each vertex. [Wikipedia links](https://en.wikipedia.org/wiki/Sylvester%27s_triangle_problem)
- `dist_circumcenter_reflection_orthocenter` : A symmetry version of `dist_orthocenter_reflection_circumcenter`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jsm28** [comment]
maintainer merge

Note that the n-dimensional version of the nine-point circle is the circumsphere of the medial simplex (see the paper linked in the `MongePoint` module doc string). So material for the nine-point circle that makes sense in n dimensions for the circumsphere of the medial simplex should be set up in such n-dimensional generality (starting by defining the medial simplex itself, probably in any affine space over a division ring with characteristic zero). There is of course some material that's genuinely two-dimensional as well (e.g. Feuerbach's theorem).

File: Mathlib/Geometry/Euclidean/MongePoint.lean [hunk 1]
```diff
@@ -326,6 +326,17 @@ theorem orthocenter_eq_smul_vsub_vadd_circumcenter (t : Triangle ℝ P) :
   rw [orthocenter_eq_mongePoint, mongePoint_eq_smul_vsub_vadd_circumcenter]
   norm_num
 
+/-- **Sylvester's theorem** : The vector from the circumcenter to the orthocenter of a triangle
+is equal to the sum of the vectors from the circumcenter to each point. -/
+theorem orthocenter_vsub_circumcenter_eq_sum_vsub (t : Triangle ℝ P) :
+    t.orthocenter -ᵥ t.circumcenter = ∑ i ∈ Finset.univ, (t.points i -ᵥ t.circumcenter) := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/MongePoint.lean]:
```suggestion
    t.orthocenter -ᵥ t.circumcenter = ∑ i, (t.points i -ᵥ t.circumcenter) := by
```

File: Mathlib/Geometry/Euclidean/MongePoint.lean [hunk 2]
```diff
@@ -326,6 +326,17 @@ theorem orthocenter_eq_smul_vsub_vadd_circumcenter (t : Triangle ℝ P) :
   rw [orthocenter_eq_mongePoint, mongePoint_eq_smul_vsub_vadd_circumcenter]
   norm_num
 
+/-- **Sylvester's theorem** : The vector from the circumcenter to the orthocenter of a triangle
+is equal to the sum of the vectors from the circumcenter to each point. -/
+theorem orthocenter_vsub_circumcenter_eq_sum_vsub (t : Triangle ℝ P) :
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/MongePoint.lean:343]: Is this true more generally as
```lean-4
theorem mongePoint_vsub_circumcenter_eq_sum_vsub {n} (t : Affine.Simplex ℝ P n) :
    t.mongePoint -ᵥ t.circumcenter = ∑ i, (t.points i -ᵥ t.circumcenter) := by
```

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/MongePoint.lean:343]: No, you'd need to scale the LHS by `(n - 1)`.

Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/MongePoint.lean:343]: Ah nevermind, of course not.

File: Mathlib/Geometry/Euclidean/MongePoint.lean [hunk 3]
```diff
@@ -326,6 +326,17 @@ theorem orthocenter_eq_smul_vsub_vadd_circumcenter (t : Triangle ℝ P) :
...
+    t.orthocenter -ᵥ t.circumcenter = ∑ i ∈ Finset.univ, (t.points i -ᵥ t.circumcenter) := by
+  rw [orthocenter_eq_smul_vsub_vadd_circumcenter, vadd_vsub, smul_eq_iff_eq_invOf_smul, smul_sum,
+    ← Finset.weightedVSubOfPoint_apply (Finset.univ) (fun x: Fin 3 => (⅟ 3:ℝ)) t.points
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/MongePoint.lean]:
```suggestion
    ← Finset.weightedVSubOfPoint_apply Finset.univ (fun x : Fin 3 => (⅟3 : ℝ)) t.points
```

File: Mathlib/Geometry/Euclidean/MongePoint.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/MongePoint.lean:343]: Sorry, our messages crossed; I think we should have that version, and then derive this as a special case.

Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/MongePoint.lean:343]: Thanks! I have submitted the general form `smul_mongePoint_vsub_circumcenter_eq_sum_vsub`

File: Mathlib/Geometry/Euclidean/MongePoint.lean (hunk 1 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/MongePoint.lean]: Thanks, fixed.

File: Mathlib/Geometry/Euclidean/MongePoint.lean (hunk 3 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/MongePoint.lean]: Outdated after I refactored the proof, but thanks for pointing it out!

**Comment by zcyemi** [comment]
> maintainer merge
> 
> Note that the n-dimensional version of the nine-point circle is the circumsphere of the medial simplex (see the paper linked in the `MongePoint` module doc string). So material for the nine-point circle that makes sense in n dimensions for the circumsphere of the medial simplex should be set up in such n-dimensional generality (starting by defining the medial simplex itself, probably in any affine space over a division ring with characteristic zero). There is of course some material that's genuinely two-dimensional as well (e.g. Feuerbach's theorem).

Thank you for the information. I’ve completed the proof for the triangle case, and I’ll now explore the extension to the simplex case.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
